US09290485B2
e) [5-({[1-(4-Chloromethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]carbamic acid tert-butyl ester
To a solution of [5-({[1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester (690 mg, 1.331 mmol) in 10 mL of DCM was added dropwise a solution of thionyl chloride (0.107 mL, 1.464 mmol) and pyridine (1.615 μL, 0.02 mmol) in 10 mL of DCM. The reaction mixture was stirred for 3 h at 40° C. and saturated aqueous bicarbonate solution was added. The layers were separated and the aqueous layer was extracted with DCM. The combined organic solution was dried over MgSO4, filtered and concentrated under vacuum to yield the crude product which was used in the next step without further purification. LCMS (Method A) RtA=1.681; [M+H]+=485.0.

reactant | [5-({[1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester | 1.331 mmol, 690 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CO)C)=O | C24H30N6O4
reactant | thionyl chloride | 1.464 mmol, 0.107 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.02 mmol, 1.615 μL | N1=CC=CC=C1 | C5H5N
reactant | bicarbonate | C([O-])(O)=O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [5-({[1-(4-Chloromethyl-benzyl)-1H-[1,2,3]triazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CCl)C)=O | C24H29ClN6O3
